US07479574B2
Synthesis of 3-methyl-1-cyclopentadecenyl propionate
Under a nitrogen atmosphere 41.0 mg (0.13 mmol) of triphenyl phosphite, 21.7 mg (0.06 mmol) of Cu(OTf)2, 4.84 ml (9.6 mmol) of a dimethylzinc toluene solution (2.0 mol/l), and 9 g of xylene were added to a 100-ml reaction flask and stirred. 0.86 g (6.6 mmol) of propionic anhydride and 1.33 g (6.0 mmol) of (2E)-cyclopentadecenone were added thereto dropwise over 3 hours at −20° C. After dropwise addition, the mixture was stirred additionally for 4 hours until completion of the reaction was determined by gas chromatographic analysis. The reaction was terminated by addition of an aqueous 5% sulfuric acid solution after completion of the reaction; the reaction solution was phase-separated and washed with water; and then, the solvent was evaporated under reduced pressure to give 63 g of a crude product. The concentrated solution was purified by silica gel column chromatography to give 1.59 g (5.4 mmol) of the title compound (yield: 90%). Gas chromatographic analysis gave E/Z =1.0/99.0.

reactant | dimethylzinc toluene | 9.6 mmol, 2.0 mol/l, 4.84 ml | C1(=CC=CC=C1)C.C[Zn]C
reactant | propionic anhydride | 6.6 mmol, 0.86 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | (2E)-cyclopentadecenone | 6.0 mmol, 1.33 g | C1(\C=C\CCCCCCCCCCCC1)=O | C15H26O
catalyst | Cu(OTf)2 | 0.06 mmol, 21.7 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
catalyst | triphenyl phosphite | 0.13 mmol, 41.0 mg | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | xylene | 9 g | C=1(C(=CC=CC1)C)C | C8H10
product | 3-methyl-1-cyclopentadecenyl propionate | 5.4 mmol, 1.59 g, yield: 90% | C(CC)(=O)OC1=CC(CCCCCCCCCCCC1)C | C19H34O2
